US07196113B2
The title compound was also prepared as follows. To a 100 L flask was charged sequentially 113.3 g (0.50 mol) of Pd(OAc)2, 331.4 g (1.11 mol) of 2-(di-t-butylphosphino)biphenyl, 2.476 kg (25.24 mol) of 1,3-cyclopentanedione, and 10.72 kg (50.5 mol) of powdered K3PO4. The resulting mixture was degassed (3×) by vacuum/N2 back fills. The vessel was then charged with 26 L of 1,4-dioxane and 4.28 kg (32.78 mol) of 1-chloro-4-fluorbenzene and the vessel degassed (3×) with vacuum/N2 back fills. The resulting slurry was heated to reflux for 12 h, cooled to rt, and water (23 L) was added. The vessel was rinsed with an additional 6 L of water and the reaction mixture further diluted with an additional 46 L of water. To the homogeneous solution was added 9 L of conc. HCl to adjust the pH to 1 and the solution aged for 2.5 h. The slurry was then filtered and the cake washed with 17 L of water and 17 L of toluene. The solid was then dried at 60° C. for 48 h, providing 2-(4-fluoro -phenyl)-1,3-cyclopentanedione as a light tan solid.

reactant | 2-(di-t-butylphosphino)biphenyl | 1.11 mol, 331.4 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | 1,3-cyclopentanedione | 25.24 mol, 2.476 kg | C1(CC(CC1)=O)=O | C5H6O2
reactant | K3PO4 | 50.5 mol, 10.72 kg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1-chloro-4-fluorbenzene | 32.78 mol, 4.28 kg | ClC1=CC=C(C=C1)F | C6H4ClF
catalyst | Pd(OAc)2 | 0.50 mol, 113.3 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | 1,4-dioxane | 26 L | O1CCOCC1 | C4H8O2
product | 2-(4-fluoro -phenyl)-1,3-cyclopentanedione | FC1=CC=C(C=C1)C1C(CCC1=O)=O | C11H9FO2
